US06169090A
2-Ethyl-7-methoxyfuro[2,3-c]pyridine
Starting from 7-methoxyfuro[2,3-c]pyridine (4.5 g) and ethyl iodide (4.0 ml). Purification by column chromatography on silica eluting with 70% hexane in ethyl acetate gave the title compound (30 g) as a colourless oil.

reactant | 7-methoxyfuro[2,3-c]pyridine | 4.5 g | COC=1N=CC=C2C1OC=C2 | C8H7NO2
reactant | ethyl iodide | 4.0 ml | C(C)I | C2H5I
product | 2-Ethyl-7-methoxyfuro[2,3-c]pyridine | 30 g | C(C)C1=CC=2C(=C(N=CC2)OC)O1 | C10H11NO2
